* Engineering surrogate, not a TI model. Typical SR/TD, no thermal or fast-trip.
.subckt U21_SCREEN IN OUT UV OV EN RAMP params: SR=28100 TD=100u RON=.0284
VONE ONE 0 1
SUV ONE UVOK UV 0 SHYST
RUV UVOK 0 1k
SOV ONE OVBAD OV 0 SHYST
ROV OVBAD 0 1k
.model SHYST SW(Ron=1m Roff=1G Vt=1.145 Vh=.055)
BEN NOW 0 V=V(UVOK)*(1-V(OVBAD))
RDELAY NOW EN {TD/0.693147/1u}
CDELAY EN 0 1u
BRAMP 0 RAMP I=limit((V(EN)-.45)/.1,0,1)*{SR}*1u*tanh((max(V(IN),0)+.1-V(RAMP))/.05)-(1-limit((V(EN)-.45)/.1,0,1))*V(RAMP)/100
CRAMP RAMP 0 1u
RDC RAMP 0 1G
BPASS IN OUT I=limit((V(EN)-.45)/.1,0,1)*max(0,min((V(IN)-V(OUT))/{RON},100*(V(RAMP)-V(OUT))))
RLEAK IN OUT 1G
.ends U21_SCREEN
